US07087626B2
4-Phenyl-dihydro-furan-2-one
A solution of 4-acetoxy-3-phenyl-butyric acid methyl ester, (4.5 g, 19.2 mmol) in 1,4-dioxane (29 mL) and sulfuric acid (29 mL) is stirred at room temperature for one hour then heated at 45° C. for 18 h. Volatile solvents are evaporated and the residue is extracted with toluene. The combined organic extracts are extracted with water and brine, filtered, and concentrated to yield the title compound, 2.2 g (71%), as a colorless liquid.

reactant | 4-acetoxy-3-phenyl-butyric acid methyl ester | 19.2 mmol, 4.5 g | COC(CC(COC(C)=O)C1=CC=CC=C1)=O | C13H16O4
solvent | 1,4-dioxane | 29 mL | O1CCOCC1 | C4H8O2
solvent | sulfuric acid | 29 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Phenyl-dihydro-furan-2-one | C1(=CC=CC=C1)C1CC(OC1)=O | C10H10O2
